US06716851B2
4-[3-(3-Nitrophenyl)anilino]-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 3-amino-3′-nitrobiphenyl (83 mg, 0.386 mmol) similar to Example 58 and isolated as a light tan solid (65 mg, 77%). 1H NMR (DMSO-d6): 13.00 (s, 1H), 11.94 (s, 1H), 11.23 (d, J=4.5 Hz, 1H), 11.11 (d, J=8.1 Hz, 1H), 10.97 (s, 1H), 10.78 (s, 1H), 10.75 (s, 1H), 10.69 (d, J 8.1 Hz, 1H), 10.35-10.28 (m, 2H), 10.14-10.04 (m, 3H), 9.67 (s, 1H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 3-amino-3′-nitrobiphenyl | 0.386 mmol, 83 mg | NC=1C=C(C=CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C12H10N2O2
product | 4-[3-(3-Nitrophenyl)anilino]-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | [N+](=O)([O-])C=1C=C(C=CC1)C=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=CC1 | C22H14F3N5O2
